US05856326
Step A: 1-[(1-Aziridinyl)methyl]-2(S)-butyl-4-(1-naphthoyl) piperazine
A solution of 1-(2(R)-butoxycarbonylamino-3-hydroxypropyl)-2(S)-butyl-4-(1-naphthoyl)piperazine (1.67 g, 3.56 mmol) in dimethylformamide (10 mL) was cooled to 0° C. under nitrogen. Sodium hydride (0.427 g, 10.6 mmol, 60% dispersion in oil) was added, followed by 1,1'-sulfonyldiimidazole (0.704 g, 3.56 mol). The reaction was warmed to 20° C. for 1 h, cooled to 0° C. and quenched with water. Dimethylformamide was distilled in vacuo, and the residue partitioned between ethyl acetate and water. The organic phase was washed with saturated brine and dried over magnesium sulfate. The crude product was chromatographed on silica gel with 70% ethyl acetate in hexane, followed by 5% methanol in chloroform. The title compound was obtained as the major product, FAB ms (m+1) 352. A lesser amount of 1-[(1-butoxycarbonylaziridinyl)methyl]-2(S)-butyl-4-(1-naphthoyl)piperazine was also isolated.

reactant | 1-(2(R)-butoxycarbonylamino-3-hydroxypropyl)-2(S)-butyl-4-(1-naphthoyl)piperazine | 3.56 mmol, 1.67 g | C(CCC)OC(=O)N[C@H](CN1[C@H](CN(CC1)C(=O)C1=CC=CC2=CC=CC=C12)CCCC)CO | C27H39N3O4
reactant | Sodium hydride | 10.6 mmol, 0.427 g | [H-].[Na+]
reactant | 1,1'-sulfonyldiimidazole | 3.56 mol, 0.704 g | S(=O)(=O)(N1C=NC=C1)N1C=NC=C1 | C6H6N4O2S
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-[(1-Aziridinyl)methyl]-2(S)-butyl-4-(1-naphthoyl) piperazine | N1(CC1)CN1[C@H](CN(CC1)C(=O)C1=CC=CC2=CC=CC=C12)CCCC | C22H29N3O
